US09024027B2
To a solution of methyl 2-(1,3-dioxo-5-(pyridin-3-ylmethoxy)isoindolin-2-yl)acetate (56 mg, 0.172 mmol) in THF (3 ml), aqueous 6N HCl (2002 μL, 12.01 mmol) was added, and the reaction mixture was stirred for 16 hours at room temperature and then heated at 50° C. for 5 hours. The volatiles were removed under vacuum and the crude was dried yielding 2-(1,3-dioxo-5-(pyridin-3-ylmethoxy)isoindolin-2-yl)acetic acid hydrochloride (54 mg, 0.155 mmol, 90% yield, MS/ESI+ 313.0 [MH]+).

reactant | methyl 2-(1,3-dioxo-5-(pyridin-3-ylmethoxy)isoindolin-2-yl)acetate | 0.172 mmol, 56 mg | O=C1N(C(C2=CC(=CC=C12)OCC=1C=NC=CC1)=O)CC(=O)OC | C17H14N2O5
reactant | HCl | 12.01 mmol, 6N, 2002 μL | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(1,3-dioxo-5-(pyridin-3-ylmethoxy)isoindolin-2-yl)acetic acid hydrochloride | 0.155 mmol, 54 mg, 90% yield | Cl.O=C1N(C(C2=CC(=CC=C12)OCC=1C=NC=CC1)=O)CC(=O)O | InChI=1S/C16H12N2O5.ClH/c19-14(20)8-18-15(21)12-4-3-11(6-13(12)16(18)22)23-9-10-2-1-5-17-7-10;/h1-7H,8-9H2,(H,19,20);1H
